US05356897
To a suspension of 2-(4-fluorophenyl)-3-(pyridin-4-yl)- 4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (250 mg) in ethanol (3.5 ml) was added 1N hydrochloric acid (0.85 ml). The resulting clear solution was concentrated in vacuo. To the residue was added ethanol (1 ml) and the solution was concentrated in vacuo. The residue was crystallized from a mixture of methanol (0.5 ml) and ethyl acetate (3 ml) and recrystallized from an aqueous isopropyl alcohol solution to give 2-(4-fluorophenyl)-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine hydrochloride (233 mg).

reactant | 2-(4-fluorophenyl)-3-(pyridin-4-yl)- 4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 250 mg | FC1=CC=C(C=C1)C1=NN2C(NCCC2)=C1C1=CC=NC=C1 | C17H15FN4
reactant | hydrochloric acid | 1N, 0.85 ml | Cl | ClH
solvent | ethanol | 3.5 ml | C(C)O | C2H6O
product | 2-(4-fluorophenyl)-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine hydrochloride | 233 mg | Cl.FC1=CC=C(C=C1)C1=NN2C(NCCC2)=C1C1=CC=NC=C1 | InChI=1S/C17H15FN4.ClH/c18-14-4-2-13(3-5-14)16-15(12-6-9-19-10-7-12)17-20-8-1-11-22(17)21-16;/h2-7,9-10,20H,1,8,11H2;1H
